US07615651B2
Preparation of Intermediate (4-Bromo-3-methyl-benzyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-2c)
(4-bromo-3-methyl-benzyl)-(3-methyl-butyl)-amine (I-2b: 13.7 g) was dissolved in 100 mL of ethyl acetate and treated with 200 mL of a saturated aqueous sodium bicarbonate solution and di-tert-butyl-carbonate (14.3 g, 65.5 mmol). The reaction mixture was stirred at 50° C. for 2 hours before cooling to room temperature and the aqueous phase extracted with ethyl acetate. The combined organic phases were washed with brine, dried over sodium sulfate, filtered and concentrated to provide the title compound (I-2c).

reactant | (4-bromo-3-methyl-benzyl)-(3-methyl-butyl)-amine | 13.7 g | BrC1=C(C=C(CNCCC(C)C)C=C1)C | C13H20BrN
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl-carbonate | 65.5 mmol, 14.3 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (4-Bromo-3-methyl-benzyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC(=C(C=C1)Br)C)=O | C18H28BrNO2
